US07384952B2
To a solution of 5-hydroxy-2-(hydroxymethyl)-4H-pyranone (1 g) in N,N-dimethylformamide (20 mL) is added potassium carbonate (1.95 g) and tert-butyl bromoacetate (1.37 g) and the mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with tetrahydrofuran (10 mL), and thereto is added water and saturated brine. After stirring, the organic layer is separated and the aqueous layer is extracted with tetrahydrofuran. The organic layers are combined and washed with saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate is concentrated and the residue is washed with diethyl ether and collected by filtration to give tert-butyl [[6-(hydroxymethyl)-4-oxo-4H-pyran-3-yl]oxy]acetate (1.49 g, yield; 88%) as a colorless powder. MS (ESI) m/z; 257 [M+H]+, M.p. 90-92° C.

reactant | potassium carbonate | 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 1.37 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl [[6-(hydroxymethyl)-4-oxo-4H-pyran-3-yl]oxy]acetate | 1.49 g, yield; 88% | OCC1=CC(C(=CO1)OCC(=O)OC(C)(C)C)=O | C12H16O6
